US08026234B2
2-(4-aminopiperidin-1-yl)-N-methylacetamide:
To a solution of 2.0 g (10 mmoles) of piperidine, which as dissolved in DMF, anhydrous, 100 mL, was added 2.8 g (20 mmoles) K2CO3, and 1.2 g (11 mmoles) 2-chloro-N-methylacetamide. After stirring at 50° C. for overnight, the mixture was diluted with 500 mL of EtOAc, washed with brine (3×500 mL), dried over Na2SO4, and solvent was evaporated in vacuum. The resulting residue was treated with 50% TFA/DCM and was stirred at r.t. for 2 hrs, and solvent was evaporated in vacuum. The resulting mixture was purified by prep HPLC to give yellow oil, yield 1.5 g (88%). [M+H] calc'd for C8H17N3O, 172. found 172.

reactant | piperidine | 10 mmoles, 2.0 g | N1CCCCC1 | C5H11N
reactant | K2CO3 | 20 mmoles, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-N-methylacetamide | 11 mmoles, 1.2 g | ClCC(=O)NC | C3H6ClNO
reactant | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 2-(4-aminopiperidin-1-yl)-N-methylacetamide | NC1CCN(CC1)CC(=O)NC | C8H17N3O
